US07799932B2
Diethyl 1-(2-ethoxy-2-oxoethyl)-3,4-dihydroxy-1H-pyrrole-2,5-dicarboxylate
To a 1000-mL round bottom flask was added containing a stir bar, and argon atmosphere, and outfitted with a reflux condenser was added ethanol (200 proof, 500 mL) and sodium metal (21.31 g, 927 mmol). When the sodium was completely dissolved, a mixture of triethyl nitrilotriacetate (56.20 g, 204 mmol) and diethyl oxalate (29.44 g, 204 mmol) was added. The mixture was refluxed overnight, whereupon it became a clear, gelatinous solution. After cooling to room temperature, the mixture was poured into 1200 mL of DI water, chilled in an ice bath and acidified with glacial acetic acid (200 mL). The resulting white precipitate was isolated via vacuum filtration and washed with several portions of DI water to yield 59.75 g (89%) of a white solid. mp 121.3-121.8° C.; 1H NMR (300 MHz, CDCl3): δ 7.51 (s, 2H), 5.32 (s, 2H), 4.39 (q, 4H, J=7.7 Hz), 4.20 (q, 2H, J=7.7 Hz), 1.38 (t, 6H, J=7.7 Hz), 1.27 (t, 3H, J=7.7 Hz); 13C NMR (75 MHz, CDCl3): δ 169.5, 162.4, 139.6, 111.1, 61.6, 47.9, 14.5, 14.4; HRMS (EI): Calcd for C14H19NO8 ([M]+), 329.1111, found m/z, 329.1111; Anal. Calcd for C14H19NO8: C, 51.06; H, 5.82; N, 4.25%, found: C, 50.79; H, 5.83; N, 4.22%.

reactant | ethanol | 500 mL | C(C)O | C2H6O
reactant | sodium | 927 mmol, 21.31 g | [Na] | Na
reactant | triethyl nitrilotriacetate | 204 mmol, 56.20 g | N(CC(=O)OCC)(CC(=O)OCC)CC(=O)OCC | C12H21NO6
reactant | diethyl oxalate | 204 mmol, 29.44 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | DI water | 1200 mL | O | H2O
product | Diethyl 1-(2-ethoxy-2-oxoethyl)-3,4-dihydroxy-1H-pyrrole-2,5-dicarboxylate | 59.75 g, 89% | C(C)OC(CN1C(=C(C(=C1C(=O)OCC)O)O)C(=O)OCC)=O | C14H19NO8
